US05864039
4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride as starting compound and 6-bromo-1-(5-chloro-1-methyl-1 H-indol-3-yl)-1-hexanone are reacted and treated in the same manner as in Example 199 to give 4-amino-5-chloro-2-methoxy-N-((1-(6-(5-chloro-1-methyl-1 H-indol-3-yl)-6-oxohexyl)piperidin-4-yl)methyl)benzamide.

reactant | 4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | 6-bromo-1-(5-chloro-1-methyl-1 H-indol-3-yl)-1-hexanone | BrCCCCCC(=O)C1=CN(C2=CC=C(C=C12)Cl)C | C15H17BrClNO
product | 4-amino-5-chloro-2-methoxy-N-((1-(6-(5-chloro-1-methyl-1 H-indol-3-yl)-6-oxohexyl)piperidin-4-yl)methyl)benzamide | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCC(=O)C2=CN(C3=CC=C(C=C23)Cl)C)C=C1Cl)OC | C29H36Cl2N4O3
